US04238505
Concentrated hydrochloric acid (5.2 ml) was slowly added to a stirred and refluxing mixture of 41.8 g (0.25 mole) of 2-methyl-3-nitrophenylmethanol, 85.0 g of iron powder, and 100 ml of 50% aqueous ethanol. Refluxing and stirring was continued for 2 hours, then the mixture was made just basic by the addition of a 15% ethanolic solution of potassium hydroxide. The hot mixture was filtered through diatomaceous earth, and the filter cake was washed with ethanol. The ethanol washings were combined with the filtrate, and the whole was made acidic with hydrogen chloride and allowed to stand for 16 hours. The solution was concentrated under reduced pressure to give a residue. Hexane was added and the water-hexane azeotrope was removed by distillation. The azeotropic distillation was repeated twice to give an undetermined amount of 3-hydroxymethyl-2-methylaniline hydrochloride, which was used in the next reaction in this sequence without further characterization.

reactant | hydrochloric acid | 5.2 ml | Cl | ClH
reactant | 2-methyl-3-nitrophenylmethanol | 0.25 mole, 41.8 g | CC1=C(C=CC=C1[N+](=O)[O-])CO | C8H9NO3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
catalyst | iron | 85.0 g | [Fe] | Fe
solvent | Hexane | CCCCCC | C6H14
product | 3-hydroxymethyl-2-methylaniline hydrochloride | Cl.OCC=1C(=C(N)C=CC1)C | InChI=1S/C8H11NO.ClH/c1-6-7(5-10)3-2-4-8(6)9;/h2-4,10H,5,9H2,1H3;1H
